US04743685
(F) 5-Hydroxy-2-[(2-oxo-1-imidazolidinyl)methyl]--4(1H)-pyridinone
5-Hydroxy-2-[(2-oxo-1-imidazolidinyl)methyl]-4(1H)-pyridinone, p-toluenesulfonate salt (4.0 g; 10.5 mmol) was dissolved in water (50 ml), and the pH was adjusted to 6.5 by the addition of 2N sodium hydroxide. The precipitate was filtered off by suction, washed with water, and dried in vacuo, yielding 1.5 g of the title compound, melting point 280° C., dec.

reactant | 5-Hydroxy-2-[(2-oxo-1-imidazolidinyl)methyl]-4(1H)-pyridinone, p-toluenesulfonate salt | 10.5 mmol, 4.0 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.OC=1C(C=C(NC1)CN1C(NCC1)=O)=O
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | water | 50 ml | O | H2O
product | 5-Hydroxy-2-[(2-oxo-1-imidazolidinyl)methyl]--4(1H)-pyridinone | 1.5 g | OC=1C(C=C(NC1)CN1C(NCC1)=O)=O | C9H11N3O3
